US05409943
N-(3-(2-Methylbenzyloxy)-2-pyridyl)-2-methylphenylacetamidine hydrochloride
A mixture of 2-amino-3-(2-methylbenzyloxy)pyridine (5.2 g, 24.2 mmol) and ethyl 2-methylphenylacetimidate hydrochloride (5.7 g, 26.7 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was purified by flash chromatography (chloroform/methanol) to obtain the product (1.37 g), m.p. 147°-154° C.

reactant | 2-amino-3-(2-methylbenzyloxy)pyridine | 24.2 mmol, 5.2 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
reactant | ethyl 2-methylphenylacetimidate hydrochloride | 26.7 mmol, 5.7 g | Cl.CC1=C(C=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2-Methylbenzyloxy)-2-pyridyl)-2-methylphenylacetamidine hydrochloride | 1.37 g | Cl.CC1=C(COC=2C(=NC=CC2)NC(CC2=C(C=CC=C2)C)=N)C=CC=C1 | InChI=1S/C22H23N3O.ClH/c1-16-8-3-5-10-18(16)14-21(23)25-22-20(12-7-13-24-22)26-15-19-11-6-4-9-17(19)2;/h3-13H,14-15H2,1-2H3,(H2,23,24,25);1H
